US07253168B2
Step 1. Preparation of 3-chloro-1-(4-methoxy-2,3-dimethylphenyl)propan-1-one
3-Chloropropionyl chloride (12.70 g, 100 mmol) is slowly added to a suspension of AlCl3 (16.0 g, 120 mmol) in CH2Cl2 (200 mL) at 0° C. under N2. Next, 2,3-dimethylanisole (13.62 g, 100 mmol) is slowly added at 0° C. The resulting yellow solution is stirred at 0° C. for 30 min, and then quenched by the addition of ice-cold 1.0 N HCl (200 mL) (the first several mL are added very slowly). The resulting mixture is stirred at room temperature for 20 min and then extracted with CH2Cl2. The extract is washed again with water (100 mL) and brine (100 mL), dried over Na2SO4, and concentrated in vacuo to a yield white solid. 1H NMR (CDCl3, 400 MHz): 7.50 (d, J=8.6 Hz, 1H), 6.74 (d, J=8.6 Hz, 1H), 3.90 (t, J=6.8 Hz, 2H), 3.87 (s, 3H), 3.34 (t, J=6.8 Hz, 2H), 2.41 (s, 3H), 2.18 (s, 3H).

reactant | 3-Chloropropionyl chloride | 100 mmol, 12.70 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | AlCl3 | 120 mmol, 16.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,3-dimethylanisole | 100 mmol, 13.62 g | CC1=C(C=CC=C1C)OC | C9H12O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-1-(4-methoxy-2,3-dimethylphenyl)propan-1-one | ClCCC(=O)C1=C(C(=C(C=C1)OC)C)C | C12H15ClO2
